US06916819B2
Synthesis of 1-(1-ethyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-1H-benzimidazol-5-yl)-4-hydroxypentan-1-one
To the bi-layer system of 3 N HCl (5 mL) and CH2Cl2 is added 5-(1-ethyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-1H-benzimidazol-5-yl)-pent-4-yn-2-ol (107 mg, 0.27 mmol), PdCl2 (5 mg, 0.028 mmol), and n-Bu4NCl (17 mg, 0.056 mmol). The resulting mixture is stirred at room temperature for 72 hr, and then poured into saturated NaHCO3 solution. The aqueous layer is extracted with CH2Cl2 and the combined organic layers are dried over Na2SO4. Solvent is removed and purification by preparative TLC provides the product as white solid. 1H NMR (CDCl3) δ 8.44 (d, 1H), 7.80 (dd, 1H), 7.85 (d, 1H), 7.40 (d, 1H), 7.36 (d, 1H), 7.18 (d, 1H), 7.14 (d, 1H), 6.36 (s, 2H), 4.27 (q, 2H), 3.86 (m, 1H), 3.19 (t, 2H), 1.93 (m, 2H), 1.25 (d, 3H), 1.09 (t, 3H). LCMS 410.2 (MH+).

reactant | HCl | 3 N, 5 mL | Cl | ClH
reactant | 5-(1-ethyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-1H-benzimidazol-5-yl)-pent-4-yn-2-ol | 0.27 mmol, 107 mg | C(C)N1C(=NC2=C1C=CC(=C2)C#CCC(C)O)CN2C(=NC=C2)C=2SC=CN2 | C21H21N5OS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | n-Bu4NCl | 0.056 mmol, 17 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Cl-]
catalyst | PdCl2 | 0.028 mmol, 5 mg | Cl[Pd]Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(1-ethyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-1H-benzimidazol-5-yl)-4-hydroxypentan-1-one | C(C)N1C(=NC2=C1C=CC(=C2)C(CCC(C)O)=O)CN2C(=NC=C2)C=2SC=CN2 | C21H23N5O2S
